US06762180B1
(2) 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-(N-ethyl-N-methyl-carbamoyl)-2-indolinone
Prepared from 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-carboxy-2-indolinone and N-ethyl-N-methyl-amine Rf value: 0.5 (aluminium oxide, methylene chloride/ethanol=20:1) C31H34N4O2

reactant | 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-carboxy-2-indolinone | N1(CCCCC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)O)=O)C=C1 | C28H27N3O3
reactant | N-ethyl-N-methyl-amine | C(C)NC | C3H9N
product | 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-(N-ethyl-N-methyl-carbamoyl)-2-indolinone | N1(CCCCC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(N(C)CC)=O)=O)C=C1 | C31H34N4O2
